US07034018B2
2-[2-(Piperidin-1-yl-m-tolyl-methyl)-pyrrol-1-yl]-phenylamine
The preparation was carried out in accordance with general synthesis instructions 4 from 2-pyrrol-1-yl-phenylamine and 1-(3-methyl-benzylidene)-piperidinium chloride, which had been prepared in accordance with example 3 from 3-methylbenzaldehyde and piperidine.

reactant | 2-pyrrol-1-yl-phenylamine | N1(C=CC=C1)C1=C(C=CC=C1)N | C10H10N2
reactant | 1-(3-methyl-benzylidene)-piperidinium chloride | [Cl-].CC=1C=C(C=[N+]2CCCCC2)C=CC1
reactant | 3-methylbenzaldehyde | CC=1C=C(C=O)C=CC1 | C8H8O
reactant | piperidine | N1CCCCC1 | C5H11N
product | 2-[2-(Piperidin-1-yl-m-tolyl-methyl)-pyrrol-1-yl]-phenylamine | N1(CCCCC1)C(C=1N(C=CC1)C1=C(C=CC=C1)N)C=1C=C(C=CC1)C | C23H27N3
